US07365085B2
d) 2-Cyclohexyl-2-phenyl-ethylamine
To a stirring solution of (2-azido-1-cyclohexyl-ethyl)-benzene (700 mg, 3.06 mmol) in methanol (20 mL) was added palladium on carbon (70 mg, 10 wt. %). The mixture was stirred at 50 Psi H2 overnight, filtered, and washed with methanol, and the filtrate was concentrated in vacuo to give 650 mg (99% yield) of title compound as an oil. 1 H-NMR (400 MHz, CDCl3) δ 7.34-7.16 (m, 5H), 3.13 (t, 1H, J=4.5 Hz), 2.92 (t, 1H, J=2.3 Hz), 2.40 (m, 1H), 1.73-0.74 (m, 11H).

reactant | (2-azido-1-cyclohexyl-ethyl)-benzene | 3.06 mmol, 700 mg | N(=[N+]=[N-])CC(C1CCCCC1)C1=CC=CC=C1 | C14H19N3
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 70 mg | [Pd] | Pd
product | 2-Cyclohexyl-2-phenyl-ethylamine | 650 mg, 99% yield | C1(CCCCC1)C(CN)C1=CC=CC=C1 | C14H21N
